Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
___
 
Major Surgical or Invasive Procedure:
EGD
 
History of Present Illness:
Mr. ___ is a ___ male with a history of
diverticulitis, gastritis, duodenal polyps, and cervical spinal
stenosis who was recently treated with diverticulitis with
cipro/Flagyl and was admitted with melena. 

He presented to ___ on ___ with 
lower
abdominal pain that radiated to the left which is very 
consistent
with his prior episodes of diverticulitis. He was started on
cipro/Flagyl with some improvement in his abdominal pain (he has
2 days left in this course). On ___, he started to have
black tarry bowel movements. This caused him to return to ___ where they did some blood work and sent him home.
Yesterday, he had a very large black bowel movement, which 
caused
him to present to ___. Otherwise, he has had some
lightheadedness intermittently as well as "waves of nausea." No
chest pain or shortness of breath. No fevers/chills. 

ROS: Pertinent positives and negatives as noted in the HPI.  All
other systems were reviewed and are negative. 

ED COURSE:
VS: Tmax 98.2, HR ___, BP 130s/80s, RR 18, SpO2 ___ on RA
Exam: NAD, benign abdominal exam, minimal stool in rectal vault,
small amount of guaiac positivity
Labs: WBC 3.8, Hgb 15.3
Imaging: none
Consultants: GI - "Stable melena for a few days. Clears, PO PPI
BID, trend hgb, EGD tentatively on ___
Interventions: pantoprazole 80 mg PO x1

 
Past Medical History:
Cervical spinal stenosis c/b UE neuropathy and weakness
Diverticulosis
Gastritis
Duodenal polyps
HTN
Diverticulitis
 
Social History:
___
Family History:
 Reviewed and found to be not relevant to this
illness/reason for hospitalization.

 
Physical Exam:
ADMISSION EXAM
VITALS: ___ 1520 Temp: 98.3 PO BP: 120/68 HR: 53 RR: 18 O2
sat: 96% O2 delivery: RA Dyspnea: 0 RASS: 0 Pain Score: ___ 
GENERAL: Alert and in no apparent distress
EYES: Anicteric, pupils equally round
ENT: Ears and nose without visible erythema, masses, or trauma. 
Oropharynx without visible lesion, erythema or exudate
CV: Heart regular, no murmur, no S3, no S4.  No JVD.
RESP: Lungs clear to auscultation with good air movement
bilaterally.  Breathing is ___
GI: Abdomen soft, ___ to palpation.  Bowel
sounds present.  No HSM
GU: No suprapubic fullness or tenderness to palpation
MSK: Neck supple, moves all extremities
SKIN: No rashes or ulcerations noted
NEURO: Alert, oriented, face symmetric, gaze conjugate with 
EOMI,
speech fluent, moves all limbs
PSYCH: pleasant, appropriate affect

DISCHARGE EXAM
98.1 PO 147 / 81 48 18 93 Ra 
HEENT: eyes anicteric, normal hearing, nose unremarkable, MMM
without exudate
CV: RRR no mrg
Resp: CTAB
GI: sntnd, NABS
GU: no foley
MSK: no obvious synovitis
Ext: wwp, neg edema in BLEs
Skin: no rash grossly visible, no spider angioma or palmar
erythema
Neuro: A&O grossly, MAEE, no facial droop, no tremor, no
asterixis
Psych: normal affect, pleasant

 
Pertinent Results:
ADMISSION RESULTS

___ 11:10AM BLOOD ___ 
___ Plt ___
___ 11:10AM BLOOD ___ 
___ Im ___ 
___
___ 05:34AM BLOOD ___ ___
___ 11:10AM BLOOD ___ 
___
___ 11:10AM BLOOD ___
___ 11:10AM BLOOD ___

====
PERTINENT INTERVAL RESULTS

___ 05:34AM BLOOD ___
___ 05:34AM BLOOD HCV ___

EGD: normal mucosa in esophagus, erythema in antrum (biopsied), 
normal mucosa in whole examined duodenum, whitish material, 
likely Carafate, was adherent to the mucosa around the GEJ, 
unable to remove despite aggressive washing

RUQUS
IMPRESSION:  
1.  Echogenic liver consistent with steatosis. Other forms of 
liver disease including steatohepatitis, hepatic fibrosis, or 
cirrhosis cannot be excluded on the basis of this examination. 
2.  No splenomegaly or ascites. 

====
DISCHARGE RESULTS
___ 07:30AM BLOOD ___ 
___ Plt ___
___ 07:30AM BLOOD ___ 
___ Im ___ 
___
___ 07:30AM BLOOD ___ 
___
___ 07:30AM BLOOD ___ 
___
___ 07:30AM BLOOD ___ male with a history of diverticulitis, gastritis, 
duodenal polyps, and cervical spinal stenosis who was recently 
treated with diverticulitis with cipro/Flagyl and was admitted 
with melena. 

ACUTE/ACTIVE PROBLEMS:
# Melena
Has some history of recent NSAID use (about 400mg 
ibuprofen/day), per PCP uses ___ lot of NSAIDs. Drinks moderate 
amount of alcohol as below, but no cirrhosis. Thought likely 
UGIB, but very slow given stable hgb despite multiple checks. 
Low risk by
___ score. No transfusions were required. Was 
treated with po PPI BID, had EGD on ___ with results as above. 
Biopsy pending. In the end, unclear cause but possibly ___ 
gastritis from NSAIDs. Resumed home PO PPI qd. 

# leukopenia: unclear cause, no neutropenia. may be med related? 
Per PCP, has chronic leukopenia but this value is lower than his 
normal. He was instructed to treat fever as an emergency. Labs 
will be checked in close follow up and followed by PCP who was 
informed personally. If was a medication effect, most likely 
cipro/flagyl or pantoprazole, each of which were stopped. 

# Transaminitis: Unclear cause, no APAP use. Some etoh use, but 
none recently. He does not take acetaminophen in excess at home. 
He does drink alcohol regularly, but not over the past week. No 
known underlying liver disease. Fatty liver on us, hep seros 
neg, no e/o cirrhosis. Labs trended down but will be followed as 
outpatient.

# HTN: held home antihypertensives while inpatient with good 
control, though patient reports that he is usually more 
hypertensive at home and is more relaxed in hospital. As such, 
recommended a phased resumption of BP meds ___ on ___, adding 
HCTZ on ___ and held home nebivolol given asymptomatic 
bradycardia.

# chronic neck pain: as above, held NSAIDs. Started APAP prn and 
tramadol prn. Notably tramadol sometimes causes bad dreams for 
patient. Can consider COX2 inhibitor. 

TRANSITIONAL ISSUES:
# Contacts/communication: ___
# Code Status/ACP: Full code, confirmed
- pt will have CBC with diff, LFTs, iron studies on ___ or ___ 
with PCP, PCP informed
- fatty liver noted on ruqus, recommend monitoring versus 
further w/u
- renal cysts noted on imaging, recommend monitoring (pt reports 
longstanding)
- pt advised to cut down on etoh given LFTs and gastritis, and 
he agreed
- BP meds will be phased back in, consider if needs/tolerates 
beta blocker given bradycardia off meds
- pt completed cipro/flagyl course in house (last day ___
- consider resection of colonic segment given recurrent 
diverticulitis
- consider COX2 inhibitor in place of ibuprofen
- if recurrent bleeding, consider capsule +/- colonoscopy
- can consider repeat EGD given white coating on esophagus 
thought by GI to be carafate

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Hydrochlorothiazide 25 mg PO DAILY 
2. Bystolic (nebivolol) 5 mg oral DAILY 
3. Omeprazole 20 mg PO DAILY 
4. Losartan Potassium 50 mg PO BID 
5. Ciprofloxacin HCl 500 mg PO Q12H 
6. MetroNIDAZOLE 500 mg PO TID 
7. Ibuprofen 400 mg PO DAILY 

 
Discharge Medications:
1.  Acetaminophen ___ mg PO Q8H:PRN Pain - Moderate  
2.  TraMADol 50 mg PO Q6H:PRN Pain - Severe 
RX *tramadol 50 mg 1 tablet(s) by mouth every six (6) hours Disp 
#*15 Tablet Refills:*0 
3.  Omeprazole 20 mg PO DAILY  
4. HELD- Bystolic (nebivolol) 5 mg oral DAILY  This medication 
was held. Do not restart Bystolic until instructed by your PCP
5. HELD- Hydrochlorothiazide 25 mg PO DAILY  This medication was 
held. Do not restart Hydrochlorothiazide until ___. HELD- Losartan Potassium 50 mg PO BID  This medication was 
held. Do not restart Losartan Potassium until ___ Lab Work
Please perform CBC with differential, LFTs, iron, TIBC, 
ferritin. Fax results to Dr. ___, fax 
___. ICD 9 288.50, 578.9, 790.4

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
melena
upper GI bleed
possible gastritis
leukopenia
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
Dear Mr. ___,
It was a pleasure caring for you.
You were admitted for dark stools. For this, you had monitoring 
of your stable blood counts and an endoscopy. This showed some 
mild irritation of your stomach, biopsies of which are pending. 
It is possible this is related to your ibuprofen use. 
We also found that your blood pressure was a bit lower than 
normal (likely due to the above), your white blood cells were a 
little lower than normal and trending down (which is likely 
medication related but should be monitored), and your liver 
function tests were off (we think this is from alcohol use but 
should be monitored to resolution by your PCP).
Until cleared by your doctor after labs, consider any fever as a 
medical emergency given the risks of severe infection with fever 
and low white blood cell counts.
Please take the script for labs to your doctor's office on 
___ or ___ to have blood tests drawn.
You can consider resection of your diverticulitis with your GI 
doctors. 
___ minimize your use of ibuprofen given the risk of stomach 
damage. 
 
Followup Instructions:
___